datasets/10k__Tet_Int.csv
SMILES Labelled
"[OH:21][CH:20]2([H])C3=C(C(C([NH+:10]2([H]))C)[H])C=CC=C3>>[NH:10]([H])C(C(C1=C(C=CC=C1)[CH:20]([H])=[OH+:21])[H])C  21=20;20,10=10"
"[OH:10]C(C)C(C)C([C:20](OC)=[OH+:21])[H]>>[OH:21][C:20]1(OC)[OH+:10]C(C)C(C)C1[H] 10=20;20,21=21"
"[H][NH:10]C(C)C(C)C([H])[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][O+:10](C(C)C(CC)[O]1)[C:20]1([O:21][H])[S]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(CC)[O][C:20]([S]C)=[O+:21][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C([O-:21])[H])[H])[H]>>[H]N([C:20]1(OC(C([O:21]1)[H])[H])[O-:10])[H] 21=20;20,10=10"
"[H][NH:10]C([H])C([H])[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"[O:21]=[C:20](O[H])OC.[O-:10]CC>>CC[O:10][C:20]([O-:21])(O[H])OC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)CC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])CCCCCC 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CC)CC)CC.[O-:21]C>>CC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)CC)CC 21=20;20,10=10"
"[H][S:10]C([H])C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C)C(C)C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"[OH:21][C:20]1(OC)C(O)C(O)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C(O)C(O)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[S]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C(CC)[S]1 10=20;20,21=21"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)CC.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C([H])[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C([H])[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][NH:10][H].C[NH+:21]=[C:20]([NH][H])[NH]CC.[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C)([NH][H])[NH]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CN([C:20](=[O:10])OCC)CCCCCC.[O-:21]CC>>CN([C:20]([O-:10])(OCC)[O:21]CC)CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O+:10]([Na])C(C)C(C)N1[H]>>[O:10]([Na])C(C)C(C)N([C:20](OC)=[O:21])[H] 21=20;20,10=10"
"[NH:10](C)C([H])/C(C)=C(C)\C(C)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(C)C(C)=C(C)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(C)=C([H])C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])/C([H])=C(C)\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC1=CC=CC=C1)CCCCCC.[O-:21]CCCCCC>>[H]N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[O-:21][CH:20]2(C)C(C3=C(C([NH+:10]2(C))C)C=CC=C3)[H]>>[NH:10](C)C(C1=C(C([CH:20](C)=[O:21])[H])C=CC=C1)C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S:10]C(C)C([H])[S][C:20]([S]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C([O-:21])C)CCCCCC)CCCCCC>>[H]N([C:20]1(OC(C([O:21]1)C)CCCCCC)[O-:10])CCCCCC 21=20;20,10=10"
"[H][S:10]C([H])C(C)C([H])[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)C([H])[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"C(C([O-:21])CC)(C(O[C:20](=[O:10])OCC)C)C>>C1(C(O[C:20]([O-:10])([O:21]C1CC)OCC)C)C 21=20;20,10=10"
"[O:10]([Na])C(CC)C(C)C([H])C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])C(C)C(CC)[O+:10]1([Na]) 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)O[H])C>>CCCCCCN([C:20](=[O:10])O[H])C.C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[CH2:20]([O:10]C1=CC=CC=C1)[Cl:21]>>[CH2:20]=[O+:10]C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21"
"[O-:21][C:20]1(OC)C([H])C(C)=C(C)C(C)[O:10]1>>[O-:10]C(C)/C(C)=C(C)\C([H])[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(C)C([H])C(C)[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S][CH](CC)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](CC)[CH](C)C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
